US09359359B2
Step 2 1-(3-((tert-Butyldimethylsilyl)oxy)propyl)-7-(4-chlorobenzyl)-8-(1-hydroxy-2-methylpropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (0.19 g, 0.355 mmol) was dissolved in ethanol (5 mL) and 6 N HCl (0.5 mL) was added. The clear solution was stirred at room temperature for 1 h. The reaction was diluted with water (75 mL) and extracted with DCM (3×50 ml). The combined extracts were dried with magnesium sulfate, filtered and the solvent was removed under reduced pressure to yield a white solid. Solid was slurried in diethyl ether (4 mL) and collected to give 7-(4-chlorobenzyl)-8-(1-hydroxy-2-methylpropyl)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (0.085 g, 56% yield) as a white solid. LCMS retention time=3.263 min and 94% purity, LCMS MH+ 421. 1H NMR (CDCl3) δ 7.23 (dd, 4H, J=8 Hz and 68 Hz), 5.59 (dd, 2H, J=16 Hz and 40 Hz), 4.43 (t, 1H, J=8 Hz). 4.17 (t, 2H, J=8 Hz), 3.59 (s, 3H), 3.48-3.54 (m, 2H), 3.35-3.40 (m, 1H), 2.48 (d, 1H, J=8 Hz), 2.08-2.16 (m, 1H), 1.85-1.92 (m, 2H), 1.03 (d, 3H, J=8 Hz), 0.82 (d, 3H, J=8 Hz).

reactant | 1-(3-((tert-Butyldimethylsilyl)oxy)propyl)-7-(4-chlorobenzyl)-8-(1-hydroxy-2-methylpropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.355 mmol, 0.19 g | [Si](C)(C)(C(C)(C)C)OCCCN1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)C(C(C)C)O)C)=O | C26H39ClN4O4Si
reactant | HCl | 6 N, 0.5 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 75 mL | O | H2O
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | 7-(4-chlorobenzyl)-8-(1-hydroxy-2-methylpropyl)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.085 g, 56% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCO)=O)C)C(C(C)C)O)C=C1 | C20H25ClN4O4
